US04017510
The 3,3-diisopropyl-5H-imidazo[2,1-a]isoindole-2(3H),5-dione (melting point 146°-148° C) is prepared in the manner described above, excepting that the methyl ester of N-(1-carbamoyl-1-isopropyl-2-methylpropyl)phthalamic acid is substituted for methyl N-(1-carbamoyl-1,2,2-trimethylpropyl)phthalamate, in the above reaction.

reactant | N-(1-carbamoyl-1-isopropyl-2-methylpropyl)phthalamic acid | C(N)(=O)C(C(C)C)(C(C)C)NC(C=1C(C(=O)O)=CC=CC1)=O | C16H22N2O4
reactant | methyl N-(1-carbamoyl-1,2,2-trimethylpropyl)phthalamate | C(N)(=O)C(C(C)(C)C)(C)NC(C=1C(C(=O)OC)=CC=CC1)=O | C16H22N2O4
product | 3,3-diisopropyl-5H-imidazo[2,1-a]isoindole-2(3H),5-dione | C(C)(C)C1(C(N=C2N1C(C1=CC=CC=C21)=O)=O)C(C)C | C16H18N2O2
